US05780465
27. Preparation of 5-(12-Fluorodibenzo[d,g][1,3]dioxocin-12-yl)-4-methoxypyrimidine (Cpd. 78)
A mixture of 0.8 g of 5-(12-hydroxydibenzo[d,g][1,3]dioxocin-12-yl)-4-methoxypyrimidine, 1 mL of DAST (diethylaminosulfur trifluoride) and 30 mL of dichloromethane was prepared and allowed to stir at ambient temperature overnight. The mixture was then washed with water, dried over sodium sulfate, and concentrated by evaporation under reduced pressure. The residue was recrystallized from a mixture of dichloromethane and hexane to obtain 0.25 g of the title compound as a white solid.

reactant | 5-(12-hydroxydibenzo[d,g][1,3]dioxocin-12-yl)-4-methoxypyrimidine | 0.8 g | OC1(C2=C(OCOC3=C1C=CC=C3)C=CC=C2)C=2C(=NC=NC2)OC | C19H16N2O4
reactant | DAST | 1 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 5-(12-Fluorodibenzo[d,g][1,3]dioxocin-12-yl)-4-methoxypyrimidine | 0.25 g | FC1(C2=C(OCOC3=C1C=CC=C3)C=CC=C2)C=2C(=NC=NC2)OC | C19H15FN2O3
